US09062092B2
Compound 95c. 2,2-Dimethyl-but-3-enoic acid carboxy-oxetan-3-yl-methyl ester
To a stirred solution of 2,2-dimethyl-but-3-enoic acid ethoxycarbonyl-oxetan-3-yl-methyl ester (207 mg, 0.808 mmol) in tetrahydrofuran (81 mL) was added a solution of potassium carbonate (123 mg, 0.888 mmol) in water (20.25 mL) followed by methanol (4.05 mL). The reaction mixture was heated to reflux for 7 h and then allowed to cool. Hydrochloric acid (2 M, 400 μL) was added (pH 7) and the solvents were evaporated. The residue was extracted with dichloromethane (2×) and the washes discarded. The aqueous was acidified with hydrochloric acid (2 M) to pH 5, extracted with dichloromethane (2×) and the combined organic extracts passed through a hydrophobic frit and evaporated. To the aqueous layer was added hydrochloric acid (about 5 drops) and the mixture was extracted with dichloromethane (2×) and the combined organic extracts passed through a hydrophobic frit, evaporated and combined with previous material to give the title compound (123 mg, 67%) as a yellow/green oil. 1H NMR (300 MHz, CDCl3) δ 1.39 (s, 3H), 1.40 (s, 3H), 3.54-3.67 (m, 1H), 4.67-4.75 (m, 2H), 4.81-4.92 (m, 2H), 5.14 (d, J=10.9 Hz, 1H), 5.15-5.32 (m, 2H), 6.08 (dd, J=17.5, 10.5 Hz, 1H), 9.30 (br s, 1H). LCMS (m/z) 229.1 [M+H] Tr=1.67 min.

reactant | 2,2-dimethyl-but-3-enoic acid ethoxycarbonyl-oxetan-3-yl-methyl ester | 0.808 mmol, 207 mg | C(C)OC(=O)C(C1COC1)OC(C(C=C)(C)C)=O | C13H20O5
reactant | potassium carbonate | 0.888 mmol, 123 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 4.05 mL | CO | CH4O
reactant | Hydrochloric acid | 2 M, 400 μL | Cl | ClH
solvent | tetrahydrofuran | 81 mL | O1CCCC1 | C4H8O
solvent | water | 20.25 mL | O | H2O
product | 2,2-Dimethyl-but-3-enoic acid carboxy-oxetan-3-yl-methyl ester | 123 mg, 67% | C(=O)(O)C(C1COC1)OC(C(C=C)(C)C)=O | C11H16O5
